US06495581B1
A mixture of 4-(chloromethyl)-5-methyl-2-(2-thienyl)oxazole (368 mg), ethyl E-8-(4-hydroxybenzyloxyimino)-8-phenyloctanoate (600 mg), potassium carbonate (432 mg) and N,N-dimethylformamide (7 ml) was stirred at room temperature for 18 hours. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl E-8-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-8-phenyloctanoate (762 mg, yield 95%) as a colorless oil from an ethyl acetate-hexane (1:5, v/v)-eluted fraction.

reactant | 4-(chloromethyl)-5-methyl-2-(2-thienyl)oxazole | 368 mg | ClCC=1N=C(OC1C)C=1SC=CC1 | C9H8ClNOS
reactant | ethyl E-8-(4-hydroxybenzyloxyimino)-8-phenyloctanoate | 600 mg | OC1=CC=C(CO\N=C(/CCCCCCC(=O)OCC)\C2=CC=CC=C2)C=C1 | C23H29NO4
reactant | potassium carbonate | 432 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | Water | O | H2O
product | ethyl E-8-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-8-phenyloctanoate | 762 mg, yield 95% | CC1=C(N=C(O1)C=1SC=CC1)COC1=CC=C(CO\N=C(/CCCCCCC(=O)OCC)\C2=CC=CC=C2)C=C1 | C32H36N2O5S
